US09359340B2
To a solution of 2-mercapto-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (12.2 g, 72.5 mmol) in water (200 ml) was added Raney Ni (8 g, slurry in water) and followed by concentrated ammonia solution (27 mmol). The mixture was refluxed for 6 hour. The catalyst was filtered off. The solvent was removed under vacuum to afford 6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (9.87 g, 99%). 1H NMR (CD3OD, 400 MHz) δ 8.07 (s, 1H), 2.89-2.85 (m, 2H), 2.80-2.76 (m, 2H), 2.23 (m, 1H), 2.13-2.05 (m, 2H), 1.64 (m, 1H).

reactant | 2-mercapto-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 72.5 mmol, 12.2 g | SC=1N=C(C2=C(N1)CCC2)O | C7H8N2OS
reactant | ammonia | 27 mmol | N | H3N
solvent | water | 200 ml | O | H2O
catalyst | Ni | 8 g | [Ni] | Ni
product | 6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 9.87 g, 99% | N1=CN=C(C2=C1CCC2)O | C7H8N2O
